US08022099B2
1-(1-Methyl-cyclopropanecarbonyl)-piperidine-4-carboxylic acid
First step: Using the general procedure I for the preparation of amide, 2.60 g of 1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carboxylic acid ethyl ester was prepared from 1.89 g of piperidine-4-carboxylic acid ethyl ester and 1.40 g of 1-methyl-cyclopropanecarboxylic acid as a light yellow oil. ES-MS m/e: 240.3 (M+H+). Second step: To a stirred solution of 1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carboxylic acid ethyl ester (2.60 g, 0.011 mmol) in THF, EtOH, H2O (50 ml, 1/1/1) was added LiOH.H2O (686 mg, 16.3 mmol). After two hours at RT, the reaction mixture was concentrated under vacuo. The crude residue was diluted in CH2Cl2 and aqueous HCl (1N) was added until pH=2. The organic phase was collected, dried over Na2SO4 and concentrated under vacuo to afforded 1.98 g (86%) of the title product as a white powder. ES-MS m/e: 212.1 (M+H+).

reactant | 1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carboxylic acid ethyl ester | 2.60 g | C(C)OC(=O)C1CCN(CC1)C(=O)C1(CC1)C | C13H21NO3
reactant | piperidine-4-carboxylic acid ethyl ester | 1.89 g | C(C)OC(=O)C1CCNCC1 | C8H15NO2
reactant | 1-methyl-cyclopropanecarboxylic acid | 1.40 g | CC1(CC1)C(=O)O | C5H8O2
reactant | 1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carboxylic acid ethyl ester | 0.011 mmol, 2.60 g | C(C)OC(=O)C1CCN(CC1)C(=O)C1(CC1)C | C13H21NO3
reactant | LiOH.H2O | 16.3 mmol, 686 mg | O[Li].O
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOH | CCO | C2H6O
solvent | H2O | 50 ml | O | H2O
product | 1-(1-Methyl-cyclopropanecarbonyl)-piperidine-4-carboxylic acid | 1.98 g, 86% | CC1(CC1)C(=O)N1CCC(CC1)C(=O)O | C11H17NO3
